CIRCUIT
*-----------------------------------------------------------------------------
*
* To use a subcircuit, the name must begin with 'X'.  For example:
* X1 1 2 3 4 5 uA741
*
* connections:   non-inverting input
*                |  inverting input
*                |  |  positive power supply
*                |  |  |  negative power supply
*                |  |  |  |  output
*                |  |  |  |  |
.subckt uA741    1  2  3  4  5
*
  c1   11 12 8.661E-12
  c2    6  7 30.00E-12
  dc    5 53 dx
  de   54  5 dx
  dlp  90 91 dx
  dln  92 90 dx
  dp    4  3 dx
  egnd 99  0 poly(2) (3,0) (4,0) 0 .5 .5
  fb    7 99 poly(5) vb vc ve vlp vln 0 10.61E6 -10E6 10E6 10E6 -10E6
  ga    6  0 11 12 188.5E-6
  gcm   0  6 10 99 5.961E-9
  iee  10  4 dc 15.16E-6
  hlim 90  0 vlim 1K
  q1   11  2 13 qx
  q2   12  1 14 qx
  r2    6  9 100.0E3
  rc1   3 11 5.305E3
  rc2   3 12 5.305E3
  re1  13 10 1.836E3
  re2  14 10 1.836E3
  ree  10 99 13.19E6
  ro1   8  5 50
  ro2   7 99 100
  rp    3  4 18.16E3
  vb    9  0 dc 0
  vc    3 53 dc 1
  ve   54  4 dc 1
  vlim  7  8 dc 0
  vlp  91  0 dc 40
  vln   0 92 dc 40
.model dx D(Is=800.0E-18 Rs=1)
.model qx NPN(Is=800.0E-18 Bf=93.75)
.ends


.param Ci_val = 0.3u;
.param Ri_val = 1000;
.param R4_val = 1k;
.param R3_val = 10k;
.param Ro_val = 100;
.param Co_val = 8E-7;

.csparam RL_val = {RL_val};
.csparam Ci_val = {Ci_val};
.csparam Ri_val = {Ri_val};
.csparam R4_val = {R4_val};
.csparam R3_val = {R3_val};
.csparam Ro_val = {Ro_val};
.csparam Co_val = {Co_val};

.options savecurrents

Vcc vcc 0 5.0
Vee vee 0 -5.0
Vin in 0 0 ac 1.0 sin(0 10m 1k)


X1 ninv_in inv_in vcc vee out uA741

*Input filter

Ci ninv_in in Ci_val
Ri ninv_in 0 Ri_val

*Coupling resistances

R4 inv_in 0 R4_val
R3 out inv_in R3_val

*Output filter

Ro out outr Ro_val
Co outr 0 Co_val

.op
.end

.control

*time analysis
tran 1e-5 1e-2
plot v(outr) v(in)

*frequency analysis
ac dec 10 .01 100MEG
plot vdb(outr)
plot vp(outr)

let bond = vecmax(vdb(out))-3;

meas ac lowf WHEN vdb(outr)=bond CROSS=1;
meas ac highf WHEN vdb(outr)=bond CROSS=LAST;

let Bandwidth = 'highf-lowf';
let LowerCutOffF = lowf;
let HigherCutOffF = highf;
let MeanFreq = 'sqrt(lowf*highf)';
let MaxDeviation = 'abs(HigherCutOffF - MeanFreq)';
let MinDeviation = 'abs(LowerCutOffF - MeanFreq)';

.if ('MaxDeviation > MinDeviation')
let FreqDeviation = MaxDeviation;
.elseif('MaxDeviation < MinDeviation')
let FreqDeviation = MinDeviation;
.else
let FreqDeviation = 0;
.endif

echo "SIM_RESULTS_TAB"
print LowerCutOffF;
print HigherCutOffF;
print Bandwidth;
print MeanFreq;
print FreqDeviation;
echo "SIM_RESULTS_END"

let resist = '(Ri_val + R4_val + R3_val + Ro_val)/1000';
let capacit = '(Ci_val + Co_val)*1000000'
let cost = 'resist + capacit'

*let merit = '1/(cost * g_deviation * FreqDeviation)'


.endc


